US06509374B2
2-Ethoxy-3-(4-(4-(4-(2-ethoxy-2-hydroxycarbonyl-ethyl)-phenyloxy)-but-2-enyloxy)-phenyl)-propionic acid
Ethyl 2-ethoxy-3-(4-(4-(4-(2-ethoxy-2-ethoxycarbonyl-ethyl)-phenyloxy)-but-2-enyloxy)-phenyl)-propionate (0.210 mmol, 109 mg) was dissolved in ethanol (7 ml) by heating to 60° C. 1M NaOH (2.3 ml) was added and the reaction mixture was stirred at 90° C. for 90 min. The reaction mixture was evaporated and 1 N HCl (6.5 ml) and methylene chloride (30 ml) was added to the residue. The organic phase was collected and the aqueous phase was further extracted with methylene chloride (2×25 ml). The combined organic phases were dried and evaporated to give the title compound in 87 mg (88%) yield. 1H-NMR δ (CDCl3) 9.55 (br. s, 2H), 7.17 (d, 4H), 6.80 (d, 4H), 5.91 (m, 2H), 4.65 (d, 4H), 4.05 (m, 2H), 3.70-3.57 (m, 2H), 3.50-3.35 (m, 2H), 3.10-2.90 (m, 4H), 1.21 (t, 6H).

reactant | Ethyl 2-ethoxy-3-(4-(4-(4-(2-ethoxy-2-ethoxycarbonyl-ethyl)-phenyloxy)-but-2-enyloxy)-phenyl)-propionate | 0.210 mmol, 109 mg | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)OCC=CCOC1=CC=C(C=C1)CC(C(=O)OCC)OCC | C30H40O8
reactant | NaOH | 1M, 2.3 ml | [OH-].[Na+]
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 2-Ethoxy-3-(4-(4-(4-(2-ethoxy-2-hydroxycarbonyl-ethyl)-phenyloxy)-but-2-enyloxy)-phenyl)-propionic acid | C(C)OC(C(=O)O)CC1=CC=C(C=C1)OCC=CCOC1=CC=C(C=C1)CC(C(=O)O)OCC | C26H32O8
